US08314088B2
8-benzyl-3-(morpholin-4-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine
A suspension of 8-benzyl-3-chloro-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (322 mg), morpholine (0.13 mL), Pd2(dba)3 (22 mg), XPhos (45 mg) and sodium tert-butoxide (282 mg) in toluene (10 mL) was stirred under an argon atmosphere at 100° C. for 3 hr. Water was added to the reaction mixture, the aqueous layer was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent gradient: 16→100% ethyl acetate/hexane) to give the title compound (259 mg, 68%) as a colorless oil.

reactant | 8-benzyl-3-chloro-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 322 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)Cl | C14H14ClN3O
reactant | morpholine | 0.13 mL | N1CCOCC1 | C4H9NO
reactant | XPhos | 45 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | sodium tert-butoxide | 282 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 22 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
product | 8-benzyl-3-(morpholin-4-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 259 mg, 68% | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N2CCOCC2 | C18H22N4O2
